US08461390B2
Synthesis of 3,4,5-trifluoro-2′-nitrobiphenyl
A well-inertized pressure vessel was initially charged with a mixture of 49.6 g (0.113 mol) of a 40% solution of 3,4,5-trifluorophenylboronic acid in tetrahydrofuran from preliminary stage a) with 121.6 g (0.304 mol) of a 10% sodium hydroxide solution and 19.7 g (0.124 mol) of 2-nitrochlorobenzene. The particular ligand was then added at room temperature, the mixture was stirred and the palladium(II) chloride was finally added. Subsequently, the reaction mixture was heated to 105° C. This established a pressure of approx. 3-4 bar. After about 12 hours of reaction time, the pressure vessel was decompressed to standard pressure and cooled to 30° C., and the reaction mixture was discharged. For workup, the reaction mixture was taken up in tert-butyl methyl ether, the phases were separated and the aqueous phase re-extracted twice with tert-butyl methyl ether. The solvents were distilled off completely under reduced pressure, the final weight was determined and the content of the crude 3,4,5-trifluoro-2′-nitrobiphenyl was analyzed by means of quantitative HPLC. If desired, the crude 3,4,5-trifluoro-2′-nitrobiphenyl can be purified further, for example by crystallization from isobutanol.

reactant | 3,4,5-trifluorophenylboronic acid | FC=1C=C(C=C(C1F)F)B(O)O | C6H4BF3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-nitrochlorobenzene | 0.124 mol, 19.7 g | [N+](=O)([O-])C1=C(C=CC=C1)Cl | C6H4ClNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
catalyst | palladium(II) chloride | [Pd](Cl)Cl
product | 3,4,5-trifluoro-2′-nitrobiphenyl | FC=1C=C(C=C(C1F)F)C1=C(C=CC=C1)[N+](=O)[O-] | C12H6F3NO2
